US07989620B2
(5S)-5-({[4-[(2-Cyclopropylpyrimidin-5-yl)ethynyl]-3,6-dihydropyridin-1(2H) -yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione
The title compound was prepared following the general method of Yamanaka et al, Synth. Commun., 1983, 312-314. To 5-bromo-2-cyclopropylpyrimidine (110 mg, 0.55 mmol) and (5S)-5-({[(4-ethynyl-3,6-dihydropyridin-1(2H) -yl)sulfonyl]methyl}-5-methylimidazolidine-2,4-dione (180 mg, 0.61 mmol) in THF (3 mL) was added Et3N (1 mL) and DMF (1 mL) at 35° C. After a solution was formed, CuI (4 mol %) and PdCl2(PPh3)2 (2 mol %) were added and the mixture was heated at 72° C. for 6 hours. The mixture was partitioned between EtOAc (15 mL) and water (10 mL), and the aqueous layer was extracted three times with EtOAc. The combined organic layers were dried and concentrated to give the crude product as a yellow oil. The title compound (65 mg) was obtained by purification using preparative HPLC.

reactant | 5-bromo-2-cyclopropylpyrimidine | 0.55 mmol, 110 mg | BrC=1C=NC(=NC1)C1CC1 | C7H7BrN2
reactant | {[(4-ethynyl-3,6-dihydropyridin-1(2H) -yl)sulfonyl]methyl}-5-methylimidazolidine-2,4-dione | 0.61 mmol, 180 mg | C(#C)C=1CCN(CC1)S(=O)(=O)CN1C(NC(C1C)=O)=O | C12H15N3O4S
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | CuI | [Cu]I
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (5S)-5-({[4-[(2-Cyclopropylpyrimidin-5-yl)ethynyl]-3,6-dihydropyridin-1(2H) -yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione | C1(CC1)C1=NC=C(C=N1)C#CC=1CCN(CC1)S(=O)(=O)C[C@@]1(C(NC(N1)=O)=O)C | C19H21N5O4S
